US08044213B2
A mixture of 0.370 g of 2-[2-(5-fluoro-2-methoxy-4-nitro-phenoxy)-ethoxy]-tetrahydro-pyran (IV.44), 0.296 g (1.17 mmole) of 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (V.2), 1.14 g (3.51 mmole) of cesium carbonate and 5 mL of dimethylformamide was heated at 70 degrees for 3 hours. The cooled mixture was poured into 30 mL of dilute ammonium chloride solution and the precipitated orange solid was collected by filtration, washed with water, and air-dried to give 0.470 g 4-(3-chloro-phenyl)-2-{4-methoxy-2-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenylamino}-thiazole-5-carboxylic acid amide (VI.44).

reactant | 2-[2-(5-fluoro-2-methoxy-4-nitro-phenoxy)-ethoxy]-tetrahydro-pyran | 0.370 g | FC=1C(=CC(=C(OCCOC2OCCCC2)C1)OC)[N+](=O)[O-] | C14H18FNO6
reactant | 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 1.17 mmole, 0.296 g | NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(=O)N | C10H8ClN3OS
reactant | cesium carbonate | 3.51 mmole, 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{4-methoxy-2-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenylamino}-thiazole-5-carboxylic acid amide | 0.470 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=C(C(=C1)OCCOC1OCCCC1)OC)[N+](=O)[O-] | C24H25ClN4O7S
